US04919871
A sol is formed by mixing 520 grams of tetraethoxysilane (TEOS) with 235 grams of reagent grade ethanol at 60° to 65° C. A solution of 1.6 grams of nitric acid in 78.5 grams of deionized water is added to the sol in four increments at about 15 minute intervals, producing a sol with a water/TEOS molar ratio of 1.75. The tetraethoxysilane is allowed to hydrolyze for one hour at 60° to 65° C. The sol is then allowed to cool to ambient temperature. The sol is vacuum distilled at 50° C. in a rotary evaporator. After distillation, the sol is rediluted with ethanol to a solids content of 53 percent. The sol is then aged until it reaches the desired spinning viscosity. The sol is placed in a sealed reservoir pressurized with 30 pounds per square inch of helium. The pressure forces the sol into a gear driven pump which delivers the sol to a spinnerette. The sol is continuously extruded through a 4-hole spinnerette with hole diameters of 280 microns. The continuously extruded fibers are drawn vertically downward through a spin tube about 9 feet (about 2.74 meters) long containing an atmosphere comprising ammonia in air. The concentration of NH3 is about 19,000 parts per million. After brief exposure to ammonia, the continuous fibers are non-tacky. The continuous non-tacky fibers are brought together by a guide to form a single compact strand. The continuous strand is then gathered on a take-up winder. After the strand is collected, it is fired to form the final silica fiber product. In this example, the fibers are placed in an oven programmed to raise the temperature 15° C. per minute. During this heating cycle, 200 cubic centimeters per minute of oxygen is introduced into the oven until the temperature reaches 500° C. The temperature is further raised to 850° C., at which the fibers are held for 5 minutes.

reactant | tetraethoxysilane | 520 grams | C(C)O[Si](OCC)(OCC)OCC | C8H20O4Si
reactant | ethanol | C(C)O | C2H6O
reactant | nitric acid | 1.6 grams | [N+](=O)(O)[O-] | HNO3
solvent | water | 78.5 grams | O | H2O
product | water TEOS | O.C(C)O[Si](OCC)(OCC)OCC | InChI=1S/C8H20O4Si.H2O/c1-5-9-13(10-6-2,11-7-3)12-8-4;/h5-8H2,1-4H3;1H2
